US09303033B2
2-chloro-4-iodoaniline (760 mg, 3 mmol), N,N′-dimethylethylenediamine (96 μL, 0.9 mmol), 1H-pyrazole (430 mg, 6.3 mmol) were dissolved in DMF (3.8 mL). Cs2CO3 (1.86 g, 5.7 mmol) and CuI (57 mg, 0.3 mmol) were added and the reaction was placed in a 140° C. oil bath. After 3 h, the volatiles were removed in vacuo. The residue was diluted with dichloromethane and purified via flash column chromatography (1% MeOH/dichloromethane) to furnish 2-chloro-4-(1H-pyrazol-1-yl)aniline (540 mg, 93%) as a golden brown oil which crystallized overnight at −20° C.

reactant | 2-chloro-4-iodoaniline | 3 mmol, 760 mg | ClC1=C(N)C=CC(=C1)I | C6H5ClIN
reactant | N,N′-dimethylethylenediamine | 0.9 mmol, 96 μL | CNCCNC | C4H12N2
reactant | 1H-pyrazole | 6.3 mmol, 430 mg | N1N=CC=C1 | C3H4N2
reactant | Cs2CO3 | 5.7 mmol, 1.86 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 3.8 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 0.3 mmol, 57 mg | [Cu]I
product | 2-chloro-4-(1H-pyrazol-1-yl)aniline | 540 mg, 93% | ClC1=C(N)C=CC(=C1)N1N=CC=C1 | C9H8ClN3
